US09056874B2
a) (±)-2-(2,2,2-Trifluoro-1-methoxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
The title compound was synthesized from a mixture of (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-methoxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate and (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-methoxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate using the same procedure as described in Example 24-B. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.76-13.01 (m, 1H) 11.06 (br. s., 1H) 8.27 (s) 7.82-7.92 (m) 7.50-7.66 (m, 2H) 7.36 (t, J=2.78 Hz, 1H) 6.65-6.79 (m, 2H) 3.19 (s, 3H) 3.10 (s, 3H). HRMS calcd. for C21H17F3N4O2 (M+H)+ 415.1379. found 415.1376.

reactant | (±)-tert-butyl 4-(1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-methoxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C1=CC2=C(N(C(=N2)C(C(F)(F)F)(OC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C=C1 | C32H39F3N4O5Si
reactant | (±)-tert-butyl 4-(1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-2,2,2-trifluoro-1-methoxyethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C=1C=CC2=C(N(C(=N2)C(C(F)(F)F)(OC)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)C1 | C32H39F3N4O5Si
product | (±)-2-(2,2,2-Trifluoro-1-methoxy-1-(5-methoxy-7-methyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CNC2=C(C=C1OC)C)(OC)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C21H17F3N4O2
